US08420661B2
(4.9 g, 18.2 mmol) 1-(Dibenzylamino)-2-methylpropan-2-ol (CAS 344868-41-3) was dissolved in dichloroethane (50 ml) and ethyl 2-diazoacetate (2.83 ml, 27.3 mmol, 1.5 equiv.) and rhodium(II) acetate dimer (200 mg, 0.455 mmol, 0.025 equiv.) were added carefully at room temperature. The mixture was stirred for 3 hours at 80° C. The reaction mixture was evaporated with isolute and the crude product was purified by flash chromatography by directly loading the residue onto a silica gel column and eluting with a heptane:ethyl acetate gradient 100:0 to 70:30. The desired (2-dibenzylamino-1,1-dimethyl-ethoxy)-acetic acid ethyl ester (1.03 g, 80% purity, 13% yield) was obtained as a colorless liquid, MS: m/e=356.3 (M+H+).

reactant | 1-(Dibenzylamino)-2-methylpropan-2-ol | 18.2 mmol, 4.9 g | C(C1=CC=CC=C1)N(CC(C)(O)C)CC1=CC=CC=C1 | C18H23NO
reactant | ethyl 2-diazoacetate | 27.3 mmol, 2.83 ml, 1.5 equiv. | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
catalyst | rhodium(II) acetate dimer | 0.455 mmol, 200 mg, 0.025 equiv. | CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].[Rh+2].[Rh+2]
product | (2-dibenzylamino-1,1-dimethyl-ethoxy)-acetic acid ethyl ester | 1.03 g, 13% yield | C(C)OC(COC(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)(C)C)=O | C22H29NO3
